US07666879B2
A. 1-(5-Bromopyridin-2-yl)-3-(m-trifluoromethylphenyl)-urea
To a solution of 5-bromopyridin-2-yl amine (1.190 g, 6.88 mmol, 1.0 eq.) in THF (20 mL), add 3-trifluoromethylphenyl isocyanate (0.96 mL, 6.88 mmol, 1.0 eq.) in a drop-wise manner at room temperature. Stir the reaction mixture at room temperature for 30 minutes. Filter the solid and wash with MeOH (2×10 mL). Dry the solid to afford 1.81 g (5.0 mmol, 73%) of the title compound. MS (ES), m/z 360, 362 (M+1).

reactant | 5-bromopyridin-2-yl amine | 6.88 mmol, 1.190 g, 1.0 eq. | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | 3-trifluoromethylphenyl isocyanate | 6.88 mmol, 0.96 mL, 1.0 eq. | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(5-Bromopyridin-2-yl)-3-(m-trifluoromethylphenyl)-urea | 5.0 mmol, 1.81 g, 73% | BrC=1C=CC(=NC1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C13H9BrF3N3O
